** sch_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/trimmer.sch
**.subckt trimmer D0 D1 D2 D3 VDD VSS en out
*.ipin en
*.ipin D0
*.ipin D1
*.ipin D2
*.ipin D3
*.opin out
*.iopin VDD
*.iopin VSS
XMP1 net1 net1 net12 VDD sg13_lv_pmos w=0.28u l=8.0u ng=1
XMP2 vstart vstart net1 VDD sg13_lv_pmos w=0.28u l=8.0u ng=1
XMN2 net3 vstart GND GND sg13_lv_nmos w=0.28u l=8.0u ng=1
XMN1 vstart vstart GND GND sg13_lv_nmos w=0.28u l=8.0u ng=1
XMP3 net2 vbp net11 VDD sg13_lv_pmos w=2.0u l=2.0u ng=2
XMP4 net3 vbp_casc net2 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP5 net4 vbp net10 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=2
XMP6 net6 vbp_casc net4 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP7 net5 vbp net9 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=2
XMP8 vbp vbp_casc net5 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP9 net6 net3 VDD VDD sg13_lv_pmos w=0.28u l=8.0u ng=1
XMN3 net6 net6 GND GND sg13_lv_nmos w=2.0u l=2.0u ng=1
XMN4 vbp_casc net6 net7 GND sg13_lv_nmos w=2.0u l=2.0u ng=1 m=4
XR1 vbp vbp_casc sub! rppd w=0.5e-6 l=389e-6 m=1 b=0
XR2 net7 GND sub! rhigh w=0.5e-6 l=152.5e-6 m=1 b=0
XMP10 net13 vbp net14 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=2
XMP11 out vbp_casc net13 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP16 vbp_casc enMon VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1
XMP17 net9 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP18 net10 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP19 net12 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1
XMP20 net11 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1
XMN5 vstart net8 GND GND sg13_lv_nmos w=2u l=0.28u ng=1
XMN6 net6 net8 GND GND sg13_lv_nmos w=2u l=0.28u ng=1
xinv2 VDD net8 enMon GND inv
XMP12 net14 net15 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP13 net16 vbp net17 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=4
XMP14 out vbp_casc net16 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=4
XMP15 net17 net18 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP21 net19 vbp net20 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=8
XMP22 out vbp_casc net19 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=8
XMP23 net20 net21 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP24 net22 vbp net23 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=16
XMP25 out vbp_casc net22 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=16
XMP26 net23 net24 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
xinv6 VDD en net8 GND inv
xinv3 VDD D0 net15 GND inv
xinv7 VDD D1 net18 GND inv
xinv8 VDD D2 net21 GND inv
xinv9 VDD D3 net24 GND inv
**.ends

* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/inv.sym
** sch_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/inv.sch
.subckt inv VDD in out VSS
*.iopin VDD
*.ipin in
*.iopin VSS
*.opin out
XM1 out in VSS VSS sg13_lv_nmos w=1.2u l=0.28u ng=1
XM2 out in VDD VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
.ends

.end
